US08404861B2
Production of 2-methyl-5-n-propyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline (Compound No. 3-2)
2-Methyl-5-n-propyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]aniline (1.6 g, 5 mmol) was dissolved in dimethyl sulfoxide (20 ml), sodium borohydride (378 mg, 10 mmol) was added by small portions, and the mixture was stirred at 60° C. for 5 hr. Ice was added to the reaction mixture by small portions, and then acetic acid was added dropwise. The reaction mixture was diluted with ethyl acetate, and the organic layer was washed 4 times with water, dried over magnesium sulfate and concentrated under reduced pressure to give the desired compound (1.47 g).

reactant | 2-Methyl-5-n-propyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]aniline | 5 mmol, 1.6 g | CC1=C(N)C=C(C(=C1)C(C(F)(F)F)(C(F)(F)F)F)CCC | C13H14F7N
reactant | sodium borohydride | 10 mmol, 378 mg | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methyl-5-n-propyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline | 1.47 g, yield: 99% | CC1=C(N)C=C(C(=C1)C(C(F)(F)F)C(F)(F)F)CCC | C13H15F6N
